US08614238B2
{3-[N-(4-Benzooxazol-2-yl-phenyl)-N-methyl-carbamoyl]-cyclopentyl}-carbamic acid 9H-fluoren-9-yl-methyl-ester
250 mg (0.71 mmol) (−)-(1S,3R)—N-Fmoc-1-Aminocyclopentane-3-carboxylic acid and 0.14 mL (1.07 mmol) 1-chloro-N,N,2-trimethylpropenyldiamine are dissolved in 5 mL DCM and stirred for 2 hours. The resulting product is added to a mixture of 159.6 mg (0.71 mmol) (4-Benzooxazol-2-yl-phenyl)-methyl-amine and 0.14 mL (1.07 mmol) 2,4,6-collidine in 5 mL DCM. The reaction mixture is stirred overnight at RT. The mixture is concentrated under reduced pressure. The residue is taken up in water and extracted with DCM. The organic layer is dried, filtered off and concentrated under reduced pressure. The product is purified by RP-HPLC (water+5-95% acetonitrile (with addition of 0.1% TFA)). The solvent is evaporated.

reactant | (−)-(1S,3R)—N-Fmoc-1-Aminocyclopentane-3-carboxylic acid | 0.71 mmol, 250 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H]1C[C@@H](CC1)C(=O)O | C21H21NO4
reactant | (4-Benzooxazol-2-yl-phenyl)-methyl-amine | 0.71 mmol, 159.6 mg | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)NC | C14H12N2O
reactant | 2,4,6-collidine | 1.07 mmol, 0.14 mL | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {3-[N-(4-Benzooxazol-2-yl-phenyl)-N-methyl-carbamoyl]-cyclopentyl}-carbamic acid 9H-fluoren-9-yl-methyl-ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NC1CC(CC1)C(N(C)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2)=O)=O | C35H31N3O4
